US06667403B2
2,2′-{(Dibutylstannylene)bis[oxy-(5-tert-octyl-2,1-phenylene)]}-bis-(5-trifluoromethyl-2H-benzotriazole)
Following the synthetic procedure of Example 25, the title compound is prepared by reaction of the corresponding equivalent amounts of 5-trifluoromethyl-2-(2-hydroxy-5-tert-octylphenyl)-2H-benzotriazole and dibutyltin oxide to give the title compound as a yellow resin (38 g, 99% yield) whose structure is consistent with 1Hnmr and 19Fnmr.

reactant | 5-trifluoromethyl-2-(2-hydroxy-5-tert-octylphenyl)-2H-benzotriazole | FC(C1=CC=2C(=NN(N2)C2=C(C=CC(=C2)C(C)(C)CC(C)(C)C)O)C=C1)(F)F | C21H24F3N3O
reactant | dibutyltin oxide | C(CCC)[Sn](CCCC)=O
product | 2,2′-{(Dibutylstannylene)bis[oxy-(5-tert-octyl-2,1-phenylene)]}-bis-(5-trifluoromethyl-2H-benzotriazole) | C(CCC)[Sn](OC1=C(C=C(C=C1)C(C)(C)CC(C)(C)C)N1N=C2C(=N1)C=CC(=C2)C(F)(F)F)(OC2=C(C=C(C=C2)C(C)(C)CC(C)(C)C)N2N=C1C(=N2)C=CC(=C1)C(F)(F)F)CCCC | InChI=1S/2C21H24F3N3O.2C4H9.Sn/c2*1-19(2,3)12-20(4,5)13-7-9-18(28)17(11-13)27-25-15-8-6-14(21(22,23)24)10-16(15)26-27;2*1-3-4-2;/h2*6-11,28H,12H2,1-5H3;2*1,3-4H2,2H3;/q;;;;+2/p-2
